.include TSMC_180nm.txt
.param SUPPLY=1.8
.param VGG=1.8
.param LAMBDA=0.09u
.param width_N={20*LAMBDA}
.param width_P={2*width_N}
.global gnd vdd
.param VDD=1.8
.option scale=90n


VS   clk  0 PULSE(0 {VDD} 0 100p 100p 15n 30n)    
VA   a1    0 PULSE(0 {VDD} 0 100p 100p 30n 60n)
VSRC f gnd 1.8V
C100 r1 gnd 10f
  




M1000 k1 clk a1 f CMOSP w=40 l=2
+  ad=0.2n pd=90u as=0.2n ps=90u
M1001 a1 clkb k1 gnd CMOSN w=20 l=2
+  ad=100p pd=50u as=100p ps=50u
M1002 u1 k1 f f CMOSP w=40 l=2
+  ad=0.2n pd=90u as=0.2n ps=90u
M1003 k1 u1 gnd gnd CMOSN w=10 l=2
+  ad=50p pd=30u as=50p ps=30u
M1004 u1 k1 gnd gnd CMOSN w=20 l=2
+  ad=100p pd=50u as=100p ps=50u
M1005 l1 clkb u1 f CMOSP w=40 l=2
+  ad=0.2n pd=90u as=0.2n ps=90u
M1006 l1 r1 f f CMOSP w=20 l=2
+  ad=100p pd=50u as=100p ps=50u
M1007 l1 r1 gnd gnd CMOSN w=10 l=2
+  ad=50p pd=30u as=50p ps=30u
M1008 k1 u1 f f CMOSP w=20 l=2
+  ad=100p pd=50u as=100p ps=50u
M1009 u1 clk l1 gnd CMOSN w=20 l=2
+  ad=100p pd=50u as=100p ps=50u
M1010 r1 l1 gnd gnd CMOSN w=20 l=2
+  ad=100p pd=50u as=100p ps=50u
M1011 r1 l1 f f CMOSP w=40 l=2
+  ad=0.2n pd=90u as=0.2n ps=90u
M1012 clkb clk f f CMOSP w=40 l=2
+  ad=0.2n pd=90u as=0.2n ps=90u
M1013 clkb clk gnd gnd CMOSN w=20 l=2
+  ad=100p pd=50u as=100p ps=50u


C0 l1 gnd 0.34923f
C1 l1 f 0.2421f
C2 f clk 0.02666f
C3 a1 clkb 0.05624f
C4 l1 r1 0.11756f
C5 a1 clk 0.12702f
C6 u1 k1 0.11029f
C7 l1 clkb 0.05829f
C8 gnd u1 0.4132f
C9 u1 f 0.68486f
C10 l1 clk 0.05624f
C11 gnd k1 0.15953f
C12 k1 f 0.24211f
C13 a1 k1 0.61857f
C14 u1 clkb 0.00355f
C15 l1 u1 0.61857f
C16 a1 f 0.00918f
C17 r1 gnd 0.40723f
C18 r1 f 0.67568f
C19 k1 clkb 0.02822f
C20 u1 clk 0.02822f
C21 k1 clk 0.0017f
C22 f clkb 0.02666f
C23 gnd 0 0.20771f 
C24 r1 0 0.23775f 
C25 f 0 6.90974f 
C26 k1 0 0.6529f 
C27 u1 0 1.30204f 
C28 a1 0 0.28975f 
C29 l1 0 1.04251f 
C30 clk 0 0.25817f 
C31 clkb 0 0.27689f 



.ic v(clkb) = 1.8V
.ic v(r1) = 1.8V
.ic v(l1) = 0V
.ic v(u1) = 0V
.ic v(k1) = 1.8V
.ic v(a1) = 1.8V
.tran 10p 300ns

.param VIM={0.5*VDD}

.meas tran t_clk_rise WHEN v(clk)=VIM RISE=4
.meas tran t_q_rise   WHEN v(r1)=VIM  RISE=1
.meas tran t_cq_rise  PARAM='t_q_rise - t_clk_rise'

.meas tran t_clk_fall WHEN v(clk)=VIM RISE=3
.meas tran t_q_fall   WHEN v(r1)=VIM  FALL=1
.meas tran t_cq_fall  PARAM='t_q_fall - t_clk_fall'

.meas tran t_cq_worst PARAM='max(abs(t_cq_rise), abs(t_cq_fall))'

.control
run
set color0 = black
set color1 = white
set hcopypscolor = 1
set xbrushwidth = 4
plot  v(a1)+2  v(r1) v(clk)+4  title "Arun_Venkat_2024102067_FLIP_FLOP"
set curplottitle = "Arun_Venkat_2024102067_FLIP_FLOP"
hardcopy Arun_Venkat_2024102067_Q3_Transient.eps
.endc