.include TSMC_180nm.txt
.param SUPPLY=1.8
.param VGG=1.8
.param LAMBDA=0.09u
.param width_N={20*LAMBDA}
.param width_P={2*width_N}
.global gnd vdd
.param VDD=1.8

VS   clk  0 PULSE(0 {VDD} 0 100p 100p 40n 80n)    
VA   a    0 PULSE(0 {VDD} 0 100p 100p 10n 20n)
VSRC f gnd 1.8V
C1 e gnd 10f


M_inv_p clkb clk f f CMOSP W={width_P} L={2*LAMBDA}
+ AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P} AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}

M_inv_n clkb clk gnd gnd CMOSN W={width_N} L={2*LAMBDA}
+ AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}

M1 a clkb b gnd CMOSN W={width_N} L={2*LAMBDA}
+ AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}

M2 a clk b f CMOSP W={width_P} L={2*LAMBDA}
+ AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P} AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}

M3 c clk d gnd CMOSN W={width_N} L={2*LAMBDA}
+ AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}

M4 c clkb d f CMOSP W={width_P} L={2*LAMBDA}
+ AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P} AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}




M_inv_1p c b f f CMOSP W={2*width_P} L={2*LAMBDA}
+ AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P} AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}

M_inv_1n c b gnd gnd CMOSN W={2*width_N} L={2*LAMBDA}
+ AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}

M_inv_11p b c f f CMOSP W={0.5*width_P} L={2*LAMBDA}
+ AS={5*0.5*width_P*LAMBDA} PS={10*LAMBDA+2*0.5*width_P} AD={5*0.5*width_P*LAMBDA} PD={10*LAMBDA+2*0.5*width_P}

M_inv_11n b c gnd gnd CMOSN W={0.5*width_N} L={2*LAMBDA}
+ AS={2.5*width_N*LAMBDA} PS={10*LAMBDA+width_N} AD={2.5*width_N*LAMBDA} PD={10*LAMBDA+width_N}




M_inv_2p e d f f CMOSP W={2*width_P} L={2*LAMBDA}
+ AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P} AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}

M_inv_2n e d gnd gnd CMOSN W={2*width_N} L={2*LAMBDA}
+ AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}

M_inv_22p d e f f CMOSP W={0.5*width_P} L={2*LAMBDA}
+ AS={2.5*width_P*LAMBDA} PS={10*LAMBDA+width_P} AD={2.5*width_P*LAMBDA} PD={10*LAMBDA+width_P}

M_inv_22n d e gnd gnd CMOSN W={0.5*width_N} L={2*LAMBDA}
+ AS={2.5*width_N*LAMBDA} PS={10*LAMBDA+width_N} AD={2.5*width_N*LAMBDA} PD={10*LAMBDA+width_N}


.ic v(clkb) = 1.8V
.ic v(e) = 1.8V
.ic v(d) = 0V
.ic v(c) = 0V
.ic v(b) = 1.8V
.ic v(a) = 1.8V
.tran 10p 150ns

.param VIM={0.5*VDD}




.meas tran t_a_rise  WHEN v(a)=VIM  FALL=3
.meas tran t_c_rise  WHEN v(c)=VIM  RISE=1
.meas tran t_ac_rise PARAM='t_c_rise - t_a_rise'


.meas tran t_a_fall  WHEN v(a)=VIM  RISE=4
.meas tran t_c_fall  WHEN v(c)=VIM  FALL=1
.meas tran t_ac_fall PARAM='t_c_fall - t_a_fall'  

.meas tran t_ac_worst PARAM='max(abs(t_ac_rise), abs(t_ac_fall))'

.meas tran t_clk_rise  WHEN v(clk)=VIM  RISE=1
.meas tran t_clkb_fall WHEN v(clkb)=VIM FALL=1
.meas tran th_pos  PARAM='t_clkb_fall - t_clk_rise'

.meas tran t_clk_fall  WHEN v(clk)=VIM  FALL=1
.meas tran t_clkb_rise WHEN v(clkb)=VIM RISE=1
.meas tran th_neg  PARAM='t_clkb_rise - t_clk_fall'


.control
run
set color0 = black
set color1 = white
set hcopypscolor = 1
set xbrushwidth = 4
plot  v(a)+2  v(c) v(clk)+4  title "Arun_Venkat_2024102067_FLIP_FLOP"
set curplottitle = "Arun_Venkat_2024102067_FLIP_FLOP"
hardcopy Arun_Venkat_2024102067_Q3_Transient.eps v(a) v(b) v(c)
.endc